US04822729
2-(p-nitrophenoxy)-myristic acid
A mixture of 980 g of 2-(p-nitrophenoxy)-myristic acid ethyl ester (synthesized analogously to the 2-(m-nitrophenoxy)-myristic acid ethyl ester of Preparation 1), 375 ml of 10N sodium hydroxide, and 1500 ml of ethanol is stirred for 1 h at room temperature and next acidified with 5000 ml of 1N hydrochloric acid. The resulting precipitate is filtered off, rinsed with water until neutral, and dried. The product (845 g) was recrystallized from n-hexane.

reactant | 2-(p-nitrophenoxy)-myristic acid ethyl ester | 980 g | C(C)OC(C(CCCCCCCCCCCC)OC1=CC=C(C=C1)[N+](=O)[O-])=O | C22H35NO5
reactant | 2-(m-nitrophenoxy)-myristic acid ethyl ester | C(C)OC(C(CCCCCCCCCCCC)OC1=CC(=CC=C1)[N+](=O)[O-])=O | C22H35NO5
reactant | sodium hydroxide | 10N, 375 ml | [OH-].[Na+]
reactant | hydrochloric acid | 1N, 5000 ml | Cl | ClH
solvent | ethanol | 1500 ml | C(C)O | C2H6O
product | 2-(p-nitrophenoxy)-myristic acid | [N+](=O)([O-])C1=CC=C(OC(C(=O)O)CCCCCCCCCCCC)C=C1 | C20H31NO5
